US07700634B2
1-(Cyclohexyl)methyl-3-{4-[(diethylamino)methyl]-[1,3]-oxazol-2-yl}-7-methoxy-1H-indole, hydrochloride salt
To a solution of 3-(4-chloromethyl-oxazol-2-yl)-1-cyclohexylmethyl-7-methoxy-1H-indole (100 mg, 0.28 mmol) in tetrahydrofuran (1 ml) was added diethylamine (0.29 ml, 2.8 mmol) and the reaction mixture subjected to microwave irradiation at 150° C. for 15 minutes. The reaction mixture was poured into a separating funnel, diluted with dichloromethane (40 ml) and washed with 5% aqueous sodium carbonate solution (2×25 ml), brine (20 ml), dried over magnesium sulfate and the solvent evaporated in vacuo to leave an orange oil. The oil was purified by flash column chromatography using 10% (v/v) methanol in dichloromethane to give the title compound (92 mg, 0.23 mmol) as the free base. The free base was dissolved in dichloromethane and hydrogen chloride (1M solution in diethyl ether; 2 ml, 2 mmol) was added. The mixture was concentrated in vacuo to afford the title compound as a 1:1 hydrochloride salt. 1H NMR (400 MHz, CD3OD): 0.97-1.28 (5H, m), 1.44 (6H, t, J 7.0), 1.5-1.8 (5H, m), 1.8-1.95 (1H, m), 3.3-3.5 (4H, m), 3.97 (3H, s), 4.29 (2H, d, J 7.0), 4.38 (2H, s), 6.8 (1H, d, J 8.0), 7.2 (1H, t, J 8.0), 7.8 (1H, s), 7.82 (1H, s), 8.2 (1H, s); EsIMS: m/z 396.0 [M+H]+, 323.4, 295.4, 268.3.

reactant | 3-(4-chloromethyl-oxazol-2-yl)-1-cyclohexylmethyl-7-methoxy-1H-indole | 0.28 mmol, 100 mg | ClCC=1N=C(OC1)C1=CN(C2=C(C=CC=C12)OC)CC1CCCCC1 | C20H23ClN2O2
reactant | diethylamine | 2.8 mmol, 0.29 ml | C(C)NCC | C4H11N
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 1-(Cyclohexyl)methyl-3-{4-[(diethylamino)methyl]-[1,3]-oxazol-2-yl}-7-methoxy-1H-indole, hydrochloride salt | 0.23 mmol, 92 mg | Cl.C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C=1OC=C(N1)CN(CC)CC | InChI=1S/C24H33N3O2.ClH/c1-4-26(5-2)15-19-17-29-24(25-19)21-16-27(14-18-10-7-6-8-11-18)23-20(21)12-9-13-22(23)28-3;/h9,12-13,16-18H,4-8,10-11,14-15H2,1-3H3;1H
